US07459451B2
To a stirred suspension of lithium aluminum hydride (8.8 mg) in diethyl ether (0.5 ml) was added a solution of ethyl 4-(5-bromo-3-pyridyl)-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate (30 mg) in diethyl ether (1.5 ml) at −78° C. The mixture was gradually warmed to −10° C. over 8 hours and quenched with water at −10° C. The mixture was filtered through celite pad, and the filtrate was evaporated. The residue was purified by preparative thin layer chromatography eluting with a mixture of EtOAc and n-hexane (2:1) to give [4-(5-bromo-3-pyridyl)-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol (18 mg) as a colorless crystal.

reactant | lithium aluminum hydride | 8.8 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-(5-bromo-3-pyridyl)-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 30 mg | BrC=1C=C(C=NC1)C1=C2C(=NC(=C1C(=O)OCC)C)N(N=C2)CC | C17H17BrN4O2
solvent | diethyl ether | 0.5 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1.5 ml | C(C)OCC | C4H10O
product | [4-(5-bromo-3-pyridyl)-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol | 18 mg | BrC=1C=C(C=NC1)C1=C2C(=NC(=C1CO)C)N(N=C2)CC | C15H15BrN4O
